US09233366B2
4-Iodobenzonitrile (57 mg, 0.25 mmol) and styrene (43 μL, 0.375 mmol) were coupled using the procedure described above to give 63% conversion to (E)-4-cyanostilbene by GC analysis.

reactant | 4-Iodobenzonitrile | 0.25 mmol, 57 mg | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | styrene | 0.375 mmol, 43 μL | C=CC1=CC=CC=C1 | C8H8
product | (E)-4-cyanostilbene | C(#N)C1=CC=C(C=C1)\C=C\C1=CC=CC=C1 | C15H11N
